US06222073B1
According to GWM, 0.011 mol (=1.20 ml) of N-methylaniline and 0.011 mol (=1.00 ml) of styrene are reacted with one another. The product is isolated by column chromatography using ethyl acetate/n-hexane (1:3) as eluent, the product N-methyl-N-phenylethylaniline being obtained as a yellow liquid.

reactant | N-methylaniline | 0.011 mol, 1.20 ml | CNC1=CC=CC=C1 | C7H9N
reactant | styrene | 0.011 mol, 1.00 ml | C=CC1=CC=CC=C1 | C8H8
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | N-methyl-N-phenylethylaniline | Yield: 53% | CN(C1=CC=CC=C1)CCC1=CC=CC=C1 | C15H17N
